US04022900
5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline was reacted with 2,4,5-trimethoxybenzoyl chloride according to the procedure of Example 19 to yield 5-(2,4,5-trimethoxybenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline; m.p. 159°-160.5° C. after purification from ethanol.

reactant | 5-Amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 2,4,5-trimethoxybenzoyl chloride | COC1=C(C(=O)Cl)C=C(C(=C1)OC)OC | C10H11ClO4
product | 5-(2,4,5-trimethoxybenzamido)-2-methyl-1,2,3,4-tetrahydroisoquinoline | COC1=C(C(=O)NC2=C3CCN(CC3=CC=C2)C)C=C(C(=C1)OC)OC | C20H24N2O4
